US08466181B2
c) 1-(4-Fluoro-phenyl)-4-methyl-1H-[1,2,3]triazole
Prepared in analogy to EP 0 433 842 A2. A mixture of 1-[3-(4-fluoro-phenyl)-5-methyl-4,5-dihydro-3H-[1,2,3]triazol-4-yl]-piperidine (1.15 g, 0.004 mol) and potassium hydroxide in MeOH (2 N, 29.2 mL, 58 mmol) was heated under reflux for 6 h then cooled to room temperature. The mixture was then poured into water and extracted with diethyl ether and the combined organic extracts washed with brine, dried over sodium sulphate, filtered and evaporated to give the title product (555 mg) as a white solid. The filtrate was evaporated and purification by chromatography (silica, 10 to 60% ethyl acetate in heptane) afforded the title compound (41 mg, 79%) as an off white solid. Total yield (596 mg, 77%). MS: m/e=178.1 [M+H]+.

reactant | 1-[3-(4-fluoro-phenyl)-5-methyl-4,5-dihydro-3H-[1,2,3]triazol-4-yl]-piperidine | 0.004 mol, 1.15 g | FC1=CC=C(C=C1)N1N=NC(C1N1CCCCC1)C | C14H19FN4
reactant | potassium hydroxide | [OH-].[K+]
reactant | MeOH | 58 mmol, 2 N, 29.2 mL | CO | CH4O
solvent | water | O | H2O
product | 1-(4-Fluoro-phenyl)-4-methyl-1H-[1,2,3]triazole | 555 mg | FC1=CC=C(C=C1)N1N=NC(=C1)C | C9H8FN3
